US04713387
In 3 ml of methylene chloride was dissolved 630 mg of 3-[p-[3-(2-tert-butoxyethyl)oxy-1-hydroxypropyl]benzyl]pyridine, and to the resulting solution was added 0.27 ml of thionyl chloride with ice-cooling, after which the resulting mixture was subjected to reaction at room temperature for 30 minutes. The solvent and the excessive thionyl chloride were removed by distillation under reduced pressure, and the residue thus obtained was dissolved in 3 ml of N,N-dimethylformamide, and 1.38 ml of DBU was added to the resulting solution, after which the resulting mixture was subjected to reaction at a temperature of 110° to 115° C. for 2 hours. To the reaction mixture were added 10 ml of water and 10 ml of toluene, and the pH of the mixture was adjusted to 7.5 with 2N hydrochloric acid. The organic layer was separated, washed with 5 ml of water, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: toluene:ethyl acetate (10:1 by volume)] to obtain 450 mg (yield 75.0%) of colorless, oily 3-[p-[3-(2-tert-butoxyethyl)oxy-1-propenyl]benzyl]pyridine.

reactant | 3-[p-[3-(2-tert-butoxyethyl)oxy-1-hydroxypropyl]benzyl]pyridine | 630 mg | C(C)(C)(C)OCCOCCC(O)C1=CC=C(CC=2C=NC=CC2)C=C1 | C21H29NO3
reactant | thionyl chloride | 0.27 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DBU | 1.38 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 ml | O | H2O
product | 3-[p-[3-(2-tert-butoxyethyl)oxy-1-propenyl]benzyl]pyridine | yield 75.0% | C(C)(C)(C)OCCOCC=CC1=CC=C(CC=2C=NC=CC2)C=C1 | C21H27NO2
